US05688798
A suspension of 7.7 g (0.040 mol) of 5-chloromethyl-2-methyl-pyrimidin-4-ylamine hydrochloride in 6 ml of dimethyl-formamide was treated with 15 g (0.11 mol) of dry potassium carbonate. At the same time a suspension of 10 g (0.040 mol) of 1-o-tolyl-piperazine dihydrochloride was treated with 15 g (0.11 mol) of dry potassium carbonate in 60 ml of dimethylformamide. After stirring at room temperature for 1/2 hr both solutions were combined and stirred for a further 4 hours. The reaction mixture was suction filtered, the residue was chromatographed over silica gel with dichloromethane/ethyl acetate 1:1 as the eluent and recrystallized from ethanol/ethyl acetate. 2.5 g of 2-methyl-5-(4-o-tolyl-piperazin-1-ylmethyl)-pyrimidin-4-ylamine were obtained as beige crystals; m.p. 189°-190°.

reactant | 5-chloromethyl-2-methyl-pyrimidin-4-ylamine hydrochloride | 0.040 mol, 7.7 g | Cl.ClCC=1C(=NC(=NC1)C)N
reactant | potassium carbonate | 0.11 mol, 15 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-o-tolyl-piperazine dihydrochloride | 0.040 mol, 10 g | Cl.Cl.C1(=C(C=CC=C1)N1CCNCC1)C
reactant | potassium carbonate | 0.11 mol, 15 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl-formamide | 6 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-methyl-5-(4-o-tolyl-piperazin-1-ylmethyl)-pyrimidin-4-ylamine | 2.5 g | CC1=NC=C(C(=N1)N)CN1CCN(CC1)C1=C(C=CC=C1)C | C17H23N5
